US04297277
To a suspension of sodium hydride (one equivalent, 50% dispersion in mineral oil) in dimethylformamide (DMF) (100 ml per 50 mmole), cooled to 0° C., is added slowly methyl p-hydroxybenzoate (one equivalent). The reaction mixture is stirred under a nitrogen atmosphere until the evolution of hydrogen ceases. To the solution of sodium 4-carbomethoxyphenolate so produced, is added N,N-dimethylthiocarbamoyl chloride [(CH3)2N(CS)Cl] (one equivalent) in one portion. The resulting suspension is heated to 70° C. for 1-3 hours and then is poured into an aqueous solution (1%) of potassium hydroxide (large excess). The suspension is extracted twice with toluene-hexane (4:1 v/v). After drying over MgSO4, the organic extracts are filtered and evaporated to an oil. The oil is purified by chromatography over silica gel using 2% methanol in methylene chloride to give O-(4-carbomethoxyphenyl)dimethylthiocarbamate [p-CH3CO2C6H4O(CS)N(CH3)2 ]. (mp 97°-102° C.). This product is heated under a nitrogen atmosphere at 220° C. for 30-60 min. to give S-(4-carbomethoxyphenyl)-dimethylthiocarbamate [p-CH3CO2C6H4S(CO)N(CH3)2 ] which is crystallized from methanol. To S-(4-carbometoxyphenyl)dimethylthiocarbamate, dissolved in DMSO, is added 2 equiv. of sodium hydroxide (10% aqueous). The mixture is heated at 65°-85° C., and the alkyl bromide (1 equiv.) is added. Heating is continued for 2-4 hours after which the mixture is poured into a large volume of water. Upon acidification, a precipitate forms, which is collected by filtration. The (alkylthio)benzoic acid is crystallized from methanol.

reactant | sodium hydride | one equivalent | [H-].[Na+]
reactant | dimethylformamide | 50 mmole, 100 ml | CN(C=O)C | C3H7NO
reactant | methyl p-hydroxybenzoate | one equivalent | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | hydrogen | [H][H] | H2
product | sodium 4-carbomethoxyphenolate | C(=O)(OC)C1=CC=C(C=C1)[O-].[Na+] | InChI=1S/C8H8O3.Na/c1-11-8(10)6-2-4-7(9)5-3-6;/h2-5,9H,1H3;/q;+1/p-1
